US05587503
In a similar manner to Example 1, 75 g (0.43 mol) of 6-(trimethylsilyl)hexanol, 7.5 g of KOH and 75 g of DMSO were reacted at 80° C. with acetylene. 6-(Trimethylsilyl)hexyl vinyl ether was obtained in 99% yield.

reactant | 6-(trimethylsilyl)hexanol | 0.43 mol, 75 g | C[Si](CCCCCCO)(C)C | C9H22OSi
reactant | KOH | 7.5 g | [OH-].[K+]
reactant | acetylene | C#C | C2H2
solvent | DMSO | 75 g | CS(=O)C | C2H6OS
product | 6-(Trimethylsilyl)hexyl vinyl ether | 99% yield | C(=C)OCCCCCC[Si](C)(C)C | C11H24OSi
